US05354867
PART E: Preparation of 4,5-dihydroxymethyl-2-n-propyl-1-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]imidazole
4,5-Dicarbomethoxy-2-n-propyl-1-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]imidazole (9.88 g, 14.1 mmol, 1 eq) was dissolved in a minimum of THF and to this solution, lithium aluminum hydride (1.0M in THF) (15.48 mL, 15.48 mmol, 1.1 eq) was slowly added dropwise. The mixture was allowed to stir at room temperature overnight after which It was quenched by the Steinhardt procedure (Fieser & Fieser V.1, p.584) as follows: to the reaction mixture water (0.66 mL) was first carefully added followed by 15% NaOH (0.66 mL) followed by water (1.97 mL). After stirring for 72 h, a very fine suspension of particulate had formed which was slowly filtered through Celite™. The filtrate was dried (MgSO4) and the solvent removed in vacuo to yield 8.83 g of a yellow glass which could not be recrystallized. This Intermediate was suitable for further transformation. NMR (DMSO-d6) δ 7.82 (d, 1H,J=9Hz); 7.68-7.28 (m,12H); 7.05 (d,2H,J=9Hz); 6.87 (d,6H,J=9Hz); 5.16 (s,2H); 4.94 (t,1H,J=7Hz); 4.66 (t,1H,J=7Hz); 4.37 (d,2H,J=7Hz); 4.32 (d,2H,J=7Hz); 2.34 (t,2H,J=7Hz); 1.52 (t of q,2H,J=7,7Hz); 0.77 (t,3H,J=7Hz). IR (neat) 3300 br; 3061; 1027; 1006; 909; 732; 699 cm-1. Anal. calcd. for C41H38N6O2.H2O: C, 74.07; H, 6.06; N, 12.64. Found: C, 74.06; H, 5.95: N, 11.86.

reactant | 4,5-Dicarbomethoxy-2-n-propyl-1-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]imidazole | 14.1 mmol, 9.88 g, 1 eq | C(=O)(OC)C=1N=C(N(C1C(=O)OC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C43H38N6O4
reactant | lithium aluminum hydride | 15.48 mmol, 1.0M, 15.48 mL, 1.1 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | 4,5-dihydroxymethyl-2-n-propyl-1-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]imidazole | 8.83 g | OCC=1N=C(N(C1CO)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C41H38N6O2
